US07488823B2
Step E: Acetic acid 4-hydroxy-7-methoxy-quinazolin-6-yl ester
A mixture of 7-Methoxy-quinazoline-4,6-diol (6.2 g, 32.3 mmol), Ac2O (100 mL) and pyridine (10 mL) was heat to 100° C., and stirred for 3 hours. The reaction was then cooled to room temperature and poured to ice water (300 mL). The product was isolated by filtration, washed with water (200 mL) and dried to give 7.61 g (32.4 mmol, 100%) of desired product.

reactant | 7-Methoxy-quinazoline-4,6-diol | 32.3 mmol, 6.2 g | COC1=C(C=C2C(=NC=NC2=C1)O)O | C9H8N2O3
reactant | Ac2O | 100 mL | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 4-hydroxy-7-methoxy-quinazolin-6-yl ester | 32.4 mmol, 7.61 g, 100% | OC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC | C11H10N2O4
